### PR TITLE
[Merged by Bors] - feat(FieldTheory/Galois): Lemmas of galois theory

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Add lemmas about Galois extensions, especially the special case of the Galois correspondence.
Co-authored-by:  Yongle Hu <mbkybky@gmail.com> Nailin Guan <3571819596@qq.com> Jingting Wang <wangjingting2023@stu.pku.edu.cn>

---

- [x] depends on: #17197

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by chrisflav** [comment]
This PR seems to have overlap with #16978. Also the "Moves: ..." part of the PR description does not seem accurate any more.

**Comment by Thmoas-Guan** [comment]
This is all the lemmas needed for the incoming PRs #16982 and #16993 , but some is still needed in #16978, do I need to remove the overlaping part or work on this PR first?

**Comment by faenuccio** [comment]
> This is all the lemmas needed for the incoming PRs #16982 and #16993 , but some is still needed in #16978, do I need to remove the overlaping part or work on this PR first?

Do you mean that #16978 depends on this PR? If this is the case, please mark it there and add the blocked-by-other-PR label (add it also to the other two PR's that depend on this one).

**Comment by Thmoas-Guan** [comment]
#16978 can be handled seperately, but should I remove the overlaping part? Because some lemmas in this PR is also used in #16979

**Comment by faenuccio** [comment]
> #16978 can be handled seperately, but should I remove the overlaping part? Because some lemmas in this PR is also used in #16979

Well, if nothing in #16978 needs what is in this PR, then yes, you should remove the overlap: once this PR will be merged the results will be in `master`  and there will be no need to re-add them through #16978. Even better, as soon as this one is merged, when you will update master on #16978, this will import these new lemmas there, so there will be no need to add them manually. All in all, a certain def/lemma should appear in a PR only if
1. You are trying to add it to master 
2. You need it for the other results of that PR.

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 1]
```diff
@@ -278,6 +278,90 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+
+/-- If `H` is a normal Subgroup of `Gal(L / K)`, then `Gal(fixedField H / K)` is isomorphic to
+`Gal(L / K) ⧸ H`. -/
+noncomputable def normalAutEquivQuotient [FiniteDimensional K L] [IsGalois K L]
+    (H : Subgroup (L ≃ₐ[K] L)) [Subgroup.Normal H] :
+    ((fixedField H) ≃ₐ[K] (fixedField H)) ≃* (L ≃ₐ[K] L) ⧸ H := by
+  apply MulEquiv.symm <| (QuotientGroup.quotientMulEquivOfEq
+    ((fixingSubgroup_fixedField H).symm.trans _)).trans <|
+    QuotientGroup.quotientKerEquivOfSurjective (restrictNormalHom (fixedField H)) <|
+      restrictNormalHom_surjective L
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Basic.lean:315]: Sorry, what API lemma?

[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/FieldTheory/Galois/Basic.lean]: A lemma that says that if you start with a automorphism of `L`, map it to an automorphism of `fixedField H`, apply it to an element of `fixedField H`, and coerce to `L`, then you get the same answer as if you just immediately coerce to `L` and apply the automorphism of `L`.

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 2]
```diff
@@ -278,6 +278,90 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+  intro h x hx
+  have hs : ((restrictNormalHom (fixedField H)) σ) ⟨x, hx⟩ = σ • x :=
+    restrictNormal_commutes σ (fixedField H) ⟨x, hx⟩
+  rw [← hs]
+  exact Subtype.val_inj.mpr (h ⟨x, hx⟩)
+
+open scoped Pointwise
+
+theorem fixingSubgroup_conjugate_of_map (σ : L ≃ₐ[K] L) :
+    E.fixingSubgroup = (MulAut.conj σ⁻¹) • ((IntermediateField.map σ E).fixingSubgroup) := by
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Basic.lean]: Restated, the proof is simplified.

File: Mathlib/FieldTheory/Galois/Basic.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Basic.lean]: Added after `AlgEquiv.restrictNormalHom`, named as `AlgEquiv.restrictNormalHom_apply`

File: Mathlib/FieldTheory/Normal.lean [hunk 3]
```diff
@@ -283,6 +283,10 @@ theorem AlgEquiv.restrictNormal_trans [Normal F E] :
 def AlgEquiv.restrictNormalHom [Normal F E] : (K₁ ≃ₐ[F] K₁) →* E ≃ₐ[F] E :=
   MonoidHom.mk' (fun χ => χ.restrictNormal E) fun ω χ => χ.restrictNormal_trans ω E
 
+lemma AlgEquiv.restrictNormalHom_apply (L : IntermediateField F K₁) [Normal F L]
+    (σ : (K₁ ≃ₐ[F] K₁)) (x : L) : restrictNormalHom L σ x = σ x :=
+  AlgEquiv.restrictNormal_commutes σ L x
```
Comment (tb65536) [inline Mathlib/FieldTheory/Normal.lean:288]: Can you also add a version like `AlgEquiv.restrictNormal_commutes` that works in general and not just for intermediate fields?

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 4]
```diff
@@ -278,6 +278,77 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+
+/-- If `H` is a normal Subgroup of `Gal(L / K)`, then `Gal(fixedField H / K)` is isomorphic to
+`Gal(L / K) ⧸ H`. -/
+noncomputable def normalAutEquivQuotient [FiniteDimensional K L] [IsGalois K L]
+    (H : Subgroup (L ≃ₐ[K] L)) [Subgroup.Normal H] :
+    (L ≃ₐ[K] L) ⧸ H ≃* ((fixedField H) ≃ₐ[K] (fixedField H)) :=
+  (QuotientGroup.quotientMulEquivOfEq ((fixingSubgroup_fixedField H).symm.trans
+  (AlgEquiv.restrictNormalHomKer (fixedField H)).symm)).trans <|
+  QuotientGroup.quotientKerEquivOfSurjective (restrictNormalHom (fixedField H)) <|
+  restrictNormalHom_surjective L
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:324]: Can you add the same sort of API lemma for this def as well?

File: Mathlib/FieldTheory/Normal.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Normal.lean:288]: I think this lemma already exists, but I prefer to still have one for intermediate field because it is more frequently used.
image
This is only an unfold away from restrictNormalHom applying on an element.

Comment (tb65536) [reply Mathlib/FieldTheory/Normal.lean:288]: Fair enough. Although it does feel a bit weird to have `AlgEquiv.restrictNormal` have a general lemma but `AlgEquiv.restrictNormalHom` to have a lemma just for intermediate fields.

File: Mathlib/FieldTheory/Galois/Basic.lean (hunk 4 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/Galois/Basic.lean:324]: Added, but do I need to add one more about the composition of `QuotientGroup.mk'` and `normalAutEquivQuotient` is equal to `restrictNormalHom`

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 5]
```diff
@@ -278,6 +278,81 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+
+lemma normalAutEquivQuotient_apply [FiniteDimensional K L] [IsGalois K L]
+    (H : Subgroup (L ≃ₐ[K] L)) [Subgroup.Normal H] (σ : (L ≃ₐ[K] L)) :
+    normalAutEquivQuotient H (QuotientGroup.mk σ) = (restrictNormalHom (fixedField H)) σ := rfl
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:328]: Maybe just use the coercion?
```suggestion
    normalAutEquivQuotient H σ = (restrictNormalHom (fixedField H)) σ := rfl
```

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 6]
```diff
@@ -278,6 +278,81 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+
+open scoped Pointwise
+
+theorem fixingSubgroup_conjugate_of_map (σ : L ≃ₐ[K] L) :
+    (E.map σ).fixingSubgroup = (MulAut.conj σ) • E.fixingSubgroup := by
+  ext τ
+  rw [IntermediateField.fixingSubgroup, mem_fixingSubgroup_iff]
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:335]: Maybe there should be a `simp`-lemma `IntermediateField.mem_fixingSubgroup_iff` to avoid having to unfold the definition of `IntermediateField.fixingSubgroup`.

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 7]
```diff
@@ -278,6 +278,81 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+  have : τ ∈ (MulAut.conj σ) • E.fixingSubgroup ↔ ∀ x : E, σ⁻¹ (τ (σ x)) = x :=
+    Subgroup.mem_pointwise_smul_iff_inv_smul_mem
+  simp only [coe_map, AlgHom.coe_coe, Set.mem_image, SetLike.mem_coe, AlgEquiv.smul_def,
+    forall_exists_index, and_imp, forall_apply_eq_imp_iff₂, this, Subtype.forall]
+  exact ⟨fun h y hy ↦ (h y hy).symm ▸ (σ.left_inv y),
+    fun h y hy ↦ (σ.right_inv (τ (σ y))) ▸ congrArg σ.toFun (h y hy)⟩
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:341]:
```suggestion
  simp only [coe_map, AlgHom.coe_coe, Set.mem_image, SetLike.mem_coe, AlgEquiv.smul_def,
    forall_exists_index, and_imp, forall_apply_eq_imp_iff₂, Subtype.forall,
    Subgroup.mem_pointwise_smul_iff_inv_smul_mem, ← symm_apply_eq,
    IntermediateField.fixingSubgroup, mem_fixingSubgroup_iff]
  rfl
```

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 8]
```diff
@@ -278,6 +278,81 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+
+/-- Let `E` be an intermediateField of a Galois extension `L / K`. If `E / K` is
+Galois extension, then `E.fixingSubgroup` is a normal subgroup of `Gal(L / K)`. -/
+instance fixingSubgroup_normal_of_isGalois [IsGalois K L] [IsGalois K E] :
+    E.fixingSubgroup.Normal := by
+  apply Subgroup.Normal.of_conjugate_fixed (fun σ ↦ ?_)
+  have : E = ((IntermediateField.map (σ⁻¹ : L ≃ₐ[K] L) E) : IntermediateField K L) :=
+    (IntermediateField.normal_iff_forall_map_eq'.mp inferInstance σ⁻¹).symm
+  nth_rw 1 [this, IsGalois.fixingSubgroup_conjugate_of_map E σ⁻¹, map_inv, smul_inv_smul]
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:350]:
```suggestion
  rw [← fixingSubgroup_conjugate_of_map, normal_iff_forall_map_eq'.mp inferInstance σ]
```

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 9]
```diff
@@ -396,6 +396,15 @@ theorem Normal.conjAct {G : Type*} [Group G] {H : Subgroup G} (hH : H.Normal) (g
 theorem smul_normal (g : G) (H : Subgroup G) [h : Normal H] : MulAut.conj g • H = H :=
   h.conjAct g
 
+theorem Normal.of_conjugate_fixed {G : Type*} [Group G] {H : Subgroup G}
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean:399]: Isn't `{G : Type*} [Group G]` already defined as a variable in this file?

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 10]
```diff
@@ -278,6 +278,73 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+in the Galois correspondence and its related results.-/
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L]
+
+open IntermediateField
+
+open scoped Pointwise
+
+lemma AlgEquiv.restrictNormalHom_ker (E : IntermediateField K L) [Normal K E]:
+    (restrictNormalHom E).ker = E.fixingSubgroup := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:293]: Would `IntermediateField.restrictNormalHom_ker` be a better name, to enable dot-notation?

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 11]
```diff
@@ -278,6 +278,73 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+  restrictNormalHom_surjective L
+
+lemma normalAutEquivQuotient_apply [FiniteDimensional K L] [IsGalois K L]
+    (H : Subgroup (L ≃ₐ[K] L)) [Subgroup.Normal H] (σ : (L ≃ₐ[K] L)) :
+    normalAutEquivQuotient H σ = (restrictNormalHom (fixedField H)) σ := rfl
+
+open scoped Pointwise
+
+@[simp]
+theorem fixingSubgroup_conjugate_of_map (σ : L ≃ₐ[K] L) :
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:328]: Perhaps `IntermediateField.map_fixingSubgroup`?

File: Mathlib/FieldTheory/IntermediateField/Basic.lean [hunk 12]
```diff
@@ -612,6 +612,16 @@ theorem mem_lift {F : IntermediateField K L} {E : IntermediateField K F} (x : F)
...
 
+/--The algEquiv between an intermediate field and its lift-/
+def lift_algEquiv (E : IntermediateField K L) (F : IntermediateField K E) : ↥F ≃ₐ[K] lift F where
+  toFun x := ⟨x.1.1,(mem_lift x.1).mpr x.2⟩
+  invFun x := ⟨⟨x.1, lift_le F x.2⟩, (mem_lift ⟨x.1, lift_le F x.2⟩).mp x.2⟩
+  left_inv := congrFun rfl
+  right_inv := congrFun rfl
+  map_mul' _ _ := rfl
+  map_add' _ _ := rfl
+  commutes' _ := rfl
```
Comment (tb65536) [inline Mathlib/FieldTheory/IntermediateField/Basic.lean:623]: I don't this is used anywhere, but if you intend to keep it, could you add some basic API like `lift_algEquiv_apply`?

(Also, maybe it should be called `liftAlgEquiv` since it's a def and not a theorem?)

File: Mathlib/FieldTheory/IntermediateField/Basic.lean [hunk 13]
```diff
@@ -612,6 +612,16 @@ theorem mem_lift {F : IntermediateField K L} {E : IntermediateField K F} (x : F)
     x.1 ∈ lift E ↔ x ∈ E :=
   Subtype.val_injective.mem_set_image
 
+/--The algEquiv between an intermediate field and its lift-/
+def lift_algEquiv (E : IntermediateField K L) (F : IntermediateField K E) : ↥F ≃ₐ[K] lift F where
+  toFun x := ⟨x.1.1,(mem_lift x.1).mpr x.2⟩
```
Comment (tb65536) [inline Mathlib/FieldTheory/IntermediateField/Basic.lean:617]:
```suggestion
  toFun x := ⟨x.1.1, (mem_lift x.1).mpr x.2⟩
```

File: Mathlib/FieldTheory/IntermediateField/Basic.lean (hunk 12 above)
Comment (Thmoas-Guan) [reply Mathlib/FieldTheory/IntermediateField/Basic.lean:623]: This lemma would be used in the incoming PR #16982 because I got trouble proving the lift of a finite dimensional intermediatefield is also finite dimensional, maybe there are better ways to solve it. But atleast for now I should add `liftAlgEquiv_apply`

File: Mathlib/FieldTheory/Galois/Basic.lean [hunk 14]
```diff
@@ -289,6 +289,72 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+/-In this section we prove that the normal subgroups correspond to the Galois subextensions
+in the Galois correspondence and its related results.-/
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L]
+
+open IntermediateField
+
+open scoped Pointwise
+
+lemma IntermediateField.restrictNormalHom_ker (E : IntermediateField K L) [Normal K E]:
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/Basic.lean:303]:
```suggestion
lemma IntermediateField.restrictNormalHom_ker (E : IntermediateField K L) [Normal K E] :
```

**Review by tb65536 — APPROVED** [review]

**Comment by tb65536** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
